US08334292B1
Step 3: Preparation of 2-(4-((S)-tetrahydrofuran-3-yloxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
To a mixture of (S)-3-(4-bromophenoxy)-tetrahydrofuran (690 mg, 2.84 mmol), bis(pinacolato)diboron (779.4 mg, 3.07 mmol), potassium acetate (834 mg, 8.5 mmol) and palladium acetate (21.8 mg, 0.087 mmol) in dry DMF (5 mL) was purged with N2 gas for 30 min. The reaction mixture was heated at 85° C. for 9 h. The resulting mixture was partitioned between water (15 mL) and ethyl acetate (20 mL). The aqueous layer was extracted with ethyl acetate (20 mL). The combined ethyl acetate layers was dried over magnesium sulfate, filtered and concentrated in vacuo. The crude product was purified by ISCO (silica gel, eluting with 5 to 10% ethyl acetate in hexane) to give the title compound (640 mg, 77% yield). 1H NMR (CDCl3, 400 MHz): δ 7.76 (d, 2H), 6.86 (d, 2H), 4.98-4.96 (m, 1H), 4.03-3.88 (m, 4H), 2.24-2.15 (m, 2H), 1.34 (s, 12H); MS (ESI) m/z: Found: 291.1 (M++1). Calc. 290.2 (M+).

reactant | (S)-3-(4-bromophenoxy)-tetrahydrofuran | 2.84 mmol, 690 mg | BrC1=CC=C(O[C@@H]2COCC2)C=C1 | C10H11BrO2
reactant | bis(pinacolato)diboron | 3.07 mmol, 779.4 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 8.5 mmol, 834 mg | C(C)(=O)[O-].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.087 mmol, 21.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(4-((S)-tetrahydrofuran-3-yloxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 640 mg, 77% yield | O1C[C@H](CC1)OC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H23BO4
